US03991196
3-[2-(hexahydro-1H-azepin-1-yl)ethyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride.
A mixture of 0.02m of 1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one, 0.022m of 2-(hexamethyleneimino)-ethyl chloride HCl and 0.022m of triethylamine in 200ml of ethanol was refluxed for 6 hours. The mixture was filtered while hot and immediately treated with excess HCl gas. Crystallization of the crude product from methanol gave 2.5g of material, m.p. 233°-4° C.

reactant | 1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | COC1=CC2=C(C=C1OC)C1=C(CNCC1)C(O2)=O | C14H15NO4
reactant | 2-(hexamethyleneimino)-ethyl chloride HCl | Cl.N(CCCCCCCl)=CCCl
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | 200ml | C(C)O | C2H6O
product | 3-[2-(hexahydro-1H-azepin-1-yl)ethyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride | 2.5g | Cl.Cl.N1(CCCCCC1)CCN1CC2=C(CC1)C1=C(OC2=O)C=C(C(=C1)OC)OC | InChI=1S/C22H30N2O4.2ClH/c1-26-20-13-17-16-7-10-24(12-11-23-8-5-3-4-6-9-23)15-18(16)22(25)28-19(17)14-21(20)27-2;;/h13-14H,3-12,15H2,1-2H3;2*1H
